Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
heavy vaginal bleeding, low platelets
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ ___ PMHx chronic ITP requiring
prior courses of dexamethasone who was referred to the ED for
thrombocytopenia.  

She reports that she was recently treated with steroids on
___  for severe thrombocytopenia with Plt count of 16K; her
Plt count subsequently improved to 83 as of ___.   

She initially developed recurrent menorrhagia starting last 
week.
She reports that her period started on ___, but then her
menorrhagia became more significant, requiring her to change her
pad up to almost every 20 minutes; she states that she has not
had bleeding this severe.  She previously had menorrhagia in the
past for which she underwent Mirena placement.  She also notes
gradual onset headache over the past 2 days not associated with
any vision changes.  She also has not had any lightheadedness,
dizziness, chest pain, dyspnea.  She states that she had the flu
about 3 weeks ago and still has some residual, but improving
cough; she was given a 10 day course of amoxicillin on ___ for
possible PNA during the course of her illness.  She had labs
drawn today and because her platelet counts was < 5, she was
referred to the ED for acute evaluation.

In the ED, initial VS 99.2, 105, 126/78, 18, 99% on RA.  On exam
,the patient had mild petechial lesions over her neck.  Initial
labs showed K 3.2, Cr 0.6, LFTs/Tbili/LDH/haptoglobin pending,
WBC 9., Hgb 11.3, Plt < 5.  Fibrinogen 447, coags were wnl.  UA
showed large blood, negative UCG.  Given her headache, CT head
was performed which showed no acute bleed.  A pelvic US was also
obtained which showed likely blood products in the uterus.  She
was evaluated by Hematology who felt that her presentation was
likely acute ITP in the setting of likely recent infection.  Her
peripheral smear showed rare red blood cell fragments and severe
thrombocytopenia as well as nml appearing leukocytes.  Per 
Heme's
recommendations, she was given 125 mg IV methylpred x 1 in the
ED.  

Upon arrival to the floor, the patient reports feeling well and
has just a mild headache ___ in severity).  She has no other
acute medical complaints.

Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
 
Past Medical History:
menorrhagia s/p Mirena IUD
chronic ITP (steroid responsive disease in the past)
iron deficiency anemia
 
Social History:
___
Family History:
No family history of hematologic disorders
 
Physical Exam:
Admission Exam:
Vitals-   98.4, 122 / 81, 101, 20, 95 ra 
General: Well-appearing female in no apparent distress
HEENT: Sclera anicteric, extraocular movements intact, 
oropharynx
with moist mucous membranes no petechiae,  no mucositis, no wet
purpura
Chest: A few scattered petechiae over her R neck and upper back
CARDIAC: RRR, nml S1 and S2, no m/r/g
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields.  No w/r/r
ABDOMEN:  soft, obese, somewhat distended, nontender, +bs
GU: no Foley
EXTREMITIES: wwp, +distal pulses
SKIN: no other petechial lesions except of R neck and upper back
NEUROLOGIC: AOx3, moving all extremities purposefully, grossly
nonfocal

Discharge Exam:
Vitals: 98.1, 104/71, 84, 18, 95%RA
Gen: NAD, lying in bed, pleasant
Eyes: EOMI, sclera anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: A few scattered petechie over her R neck and upper back. 
No
jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect

 
Pertinent Results:
Admission Labs: 
___ 06:24PM   ___ PTT-31.7 ___
___ 06:24PM   ___
___ 06:10PM URINE  UCG-NEGATIVE
___ 06:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:10PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 06:10PM URINE  RBC-23* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 06:05PM   GLUCOSE-85 UREA N-7 CREAT-0.6 SODIUM-140 
POTASSIUM-3.2* CHLORIDE-103 TOTAL CO2-26 ANION GAP-14
___ 06:05PM   WBC-9.7 RBC-4.09 HGB-11.3 HCT-35.8 MCV-88 
MCH-27.6 MCHC-31.6* RDW-12.4 RDWSD-39.8
___ 06:05PM   NEUTS-64.7 ___ MONOS-10.5 EOS-1.1 
BASOS-0.3 IM ___ AbsNeut-6.26* AbsLymp-2.23 AbsMono-1.02* 
AbsEos-0.11 AbsBaso-0.03
___ 06:05PM   PLT COUNT-<5
___ 06:05PM   RET AUT-2.3* ABS RET-0.10

Micro:
___ UCx pending
 
Imaging/Studies: 
___ CT HEAD
No acute intracranial abnormality.

___ PELVIC US
1. Fibroid uterus with normal ovaries.
2. Heterogeneous material in the endometrial cavity likely
representing blood products.
 
EKG:  
none

Discharge Labs:
___ 06:15PM BLOOD WBC-11.0* RBC-3.90 Hgb-11.0* Hct-33.6* 
MCV-86 MCH-28.2 MCHC-32.7 RDW-12.5 RDWSD-39.4 Plt Ct-31*#
 
Brief Hospital Course:
Ms. ___ is a ___ PMHx chronic ITP presenting with severe
menorrhagia and thrombocytopenia. 

# Thrombocytopenia.  Patient with history of chronic ITP 
requiring steroid treatment in the past. Her peripheral smear 
and wnl coags are reassuring for no microangiopathy or DIC.  
Given her prior history of chronic ITP and recent infection, her 
presentation is likely consistent with ITP ___ recent viral 
infection. She received IV methylpred 125 mg x 1 in the ED and 
then IVIG 500 mg/kg x 1 on the floor.  Aside from her 
menorrhagia, the patient also has petechial lesions over her 
torso.  She has a headache, but her head CT is reassuringly 
negative for any evidence of intracranial bleeding. She was seen 
by hematology who recommended a 4 day total course of 
dexamethasone 40 mg daily. Her bleeding resolved and she was 
stable for D/C per hematology with a platelet count of 25. 
Hematology will set the patient up with outpatient follow-up and 
contact the patient with a follow up plan.  

# Menorrhagia.  ___ severe thrombocytopenia as described above. 
Resolved prior to discharge with stable H/H. 

# Iron deficiency anemia.  Previously on iron supplementation; 
anemia has improved following repletion of iron stores.  Hgb at 
baseline. Outpatient follow-up. 

Greater than 30 minutes was spent in care coordination and 
counseling on day of discharge. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Dexamethasone 40 mg PO DAILY 
RX *dexamethasone 4 mg 10 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ITP

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

You were referred to the hospital with low platelets. You were 
given medication to improve the your platelets and help stop 
your bleeding. This was successful and your platelets improved. 
Please take the steroids for the next 3 days and follow up with 
your PCP and hematologist. 
 
Followup Instructions:
___